US06440995B1
(RS)-3-(2-Phenyl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride
The title compound, m.p. 225-227° C., and MS: m/e=295.3 (M+H+), was prepared from 4-chloro-2-phenyl-quinolin and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-phenyl-quinolin | ClC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C15H10ClN
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-(2-Phenyl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride | Cl.C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O | InChI=1S/C18H18N2O2.ClH/c21-12-14(22)11-19-18-10-17(13-6-2-1-3-7-13)20-16-9-5-4-8-15(16)18;/h1-10,14,21-22H,11-12H2,(H,19,20);1H
